US07629351B2
Example 1, Alternative Preparation, Step 5: A solution of 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(hydroxyamino)cyclohexylcarbamate (350 mg, 0.69 mmol) in acetone (5 mL) was stirred at room temperature for 16 h. The mixture was concentrated in vacuo. The residue was dissolved in anhydrous THF (7 mL) and cooled to 0° C. A solution of MeMgBr (1.1 mL, 3M in diethyl ether, 5 eq) was added dropwise. The mixture was stirred at room temperature for 1.5 h. The reaction was quenched with water (5 mL) at 0° C. The mixture was diluted with ethyl acetate (100 mL) and filtered through a pad of celite. The filtrate was washed with brine (30 mL). The solution was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The residue was dissolved in 2 ml of acetonitrile and 1 ml of CS2 was added. The mixture was stirred at room temperature for 1 hours. The solvent was removed and the crude product was purified by silica gel column chromatography, using 1.5% of methanol in dichloromethane as the eluant, to provide the desired 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexylcarbamate (160 mg, 42%). LC/MS found [M+H]−=547.

reactant | 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(hydroxyamino)cyclohexylcarbamate | 0.69 mmol, 350 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NO)NC(OCC[Si](C)(C)C)=O)=O | C24H38N4O6Si
reactant | MeMgBr | 3M, 1.1 mL, 5 eq | C[Mg+].[Br-]
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexylcarbamate | 160 mg, 42% | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)NC(OCC[Si](C)(C)C)=O)=O | C28H46N4O5Si
